US08022206B2
5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carbaldehyde
A mixture of 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridine-6-ylamine (100.0 mg, 0.238 mmol), 5-formyl-2-thiopheneboronic acid (55.7 mg, 0.357 mmol), Pd(PPh3)4 (10.0 mg, 0.01 mmol), potassium carbonate (98.7 mg, 0.714 mmol) and 4:1 dioxane:water (10 mL) was heated to 90° C. overnight. The material was concentrated in vacuo, redissolved in DCM and transferred to a separatory funnel, extracting with sat. NaHCO3. The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 2% MeOH/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a yellow solid. 1H NMR (400 MHz, CD3OD): δ=1.90 (d, J=6.8 Hz, 3H), 6.53 (q, J=6.7 Hz, 1H), 7.20-7.25 (m, 1H), 7.41 (dd, J=8.8, 4.8 Hz, 1H), 7.59 (d, J=3.8 Hz, 1H), 7.94 (d, J=4.0 Hz, 1H), 8.13 (s, 1H), 8.28 (s, 1H), 9.89 (s, 1H). MS (ES+): m/z 450.92 (100) [MH+]. HPLC: tR=3.75 min (ZQ3, polar—5 min).

reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridine-6-ylamine | 0.238 mmol, 100.0 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 5-formyl-2-thiopheneboronic acid | 0.357 mmol, 55.7 mg | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | potassium carbonate | 0.714 mmol, 98.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 10.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | 5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carbaldehyde | NC1=C(C2=C(C=N1)C(=CO2)C2=CC=C(S2)C=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H13Cl2FN2O3S
